US08030334B2
3-Fluoro-5-bromopyridine and N-Boc-5-fluoro-indole-2-boronic acid are processed according to the procedure described in Example 91 to give 5-fluoro-2-(5-fluoro-pyridin-3-yl)-1H-indole. (ESI) m/z 231.04 (M+H)+.

reactant | 3-Fluoro-5-bromopyridine | FC=1C=NC=C(C1)Br | C5H3BrFN
reactant | N-Boc-5-fluoro-indole-2-boronic acid | C(=O)(OC(C)(C)C)N1C(=CC2=CC(=CC=C12)F)B(O)O | C13H15BFNO4
product | 5-fluoro-2-(5-fluoro-pyridin-3-yl)-1H-indole | FC=1C=C2C=C(NC2=CC1)C=1C=NC=C(C1)F | C13H8F2N2
